US05204333
2,2-Dimethyl-5-(3,4-difluorophenyl)-5-hydroxymethyl-1,3-dioxane (1.0 g) and Dowex 50×8-200 ion exchange resin (H+ form) (100 mg) in methanol (100 ml) containing water (20 ml) was heated to reflux with stirring for 3 hours. The cooled solution was filtered and evaporated to leave 2-(3,4-difluorophenyl)-2-hydroxymethylpropane-1,3-diol (0.45 g) as a yellow gum. Nmr. (d6 acetone) δ 7.5 (1H,m), 7.3 (1H,m), 7.2 (1H,m), 3.95 (6H,s), 4.2-3.8 (3H,broad).

reactant | 2,2-Dimethyl-5-(3,4-difluorophenyl)-5-hydroxymethyl-1,3-dioxane | 1.0 g | CC1(OCC(CO1)(CO)C1=CC(=C(C=C1)F)F)C | C13H16F2O3
reactant | water | 20 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-(3,4-difluorophenyl)-2-hydroxymethylpropane-1,3-diol | 0.45 g | FC=1C=C(C=CC1F)C(CO)(CO)CO | C10H12F2O3
